2132-12-27 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS
 Diagnostic tap done.  Fluid analysis +SBP with 1900
   WBC, 15% PMN = 270 PMN.  Which is > 250.
   Liver recs: cont CTX, Alb 1.5mg/kg yesterday, and albumin 1mg/kg to be
   given today.
   Diltiazem gtt was stopped and transitioned to Metoprolol 37.5mg  PO
   with good results.  HR currently in 90s-100s.  Increased to Metoprolol
   50mg PO TID this AM.
   NGT placed.  Patient self d/c
ed NGT overnight.  Repeat CXR pending.
   Patient now with mitten restraints.
   Pathology from OSH to be sent this morning.
   Allergies:
   Iodine
   Swelling of fac
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-12-26**] 09:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-27**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 106 (85 - 130) bpm
   BP: 130/65(78) {87/38(50) - 139/4,557(80)} mmHg
   RR: 31 (19 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    796 mL
                  PO:
                  TF:
   IVF:
                                                                    106 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  2,085 mL
                                                                    480 mL
   Urine:
                                                                  1,665 mL
                                                                    480 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,289 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   338 K/uL
   8.6 g/dL
   144 mg/dL
   3.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   120 mg/dL
   105 mEq/L
   143 mEq/L
   25.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2132-12-26**]  06:22 AM
                             [**2132-12-26**]  03:21 PM
                             [**2132-12-27**]  03:15 AM
   WBC
   10.9
   10.8
   Hct
   27.4
   25.9
   Plt
   371
   338
   Cr
   3.8
   3.7
   TropT
   0.06
   0.06
   Glucose
   150
   144
   Other labs: PT / PTT / INR:17.7/26.4/1.6, CK / CKMB /
   Troponin-T:33//0.06, ALT / AST:[**7-10**], Alk Phos / T Bili:59/0.3,
   Differential-Neuts:90.2 %, Lymph:5.1 %, Mono:4.5 %, Eos:0.1 %,
   Albumin:3.5 g/dL, LDH:182 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   76 yo female with MMP including CAD, Atrial fibrillation transferred
   for workup of new onset ascites of uncertain etiology, altered mental
   status and acute renal failure now transferred to MICU for respiratory
   distress and atrial fibrillation with [**Month/Year (2) 1725**].
   .
   # Acute renal failure - ATN evident. Although urine Na <20 suggestive
   of possible prerenal component. Pt was given albumin and 3L IVF
   challenge today w/ no response in urine output. Diuresis may worsening
   renal failure however given respiratory failure will diurese
   aggressively.
   - No response to 40mg IV lasix on floor, will uptitrate to response,
   consider addition of thiazide
   - Urine electrolytes, sediment, and eosinophils.
   - Foley to monitor urine output
   .
   # Atrial fibrillation - Pt with [**Month/Year (2) 1725**] in setting of volume overload.
   Diurese as above. Rate responsive to lopressor 5mg IV on floor. Hold
   warfarin for now, in case possible procedures (INR 7)
   - Pt with continued intermittent [**Last Name (LF) 1725**], [**First Name3 (LF) 116**] start dilt gtt to control
   rate, improve CO while attempting diuresis
   .
   # Altered Mental Status - Most likely toxic/metabolic with liver and
   renal failure. On admission the patient was receiving several centrally
   acing medications including metoclopramide, lorazepam, trazodone, as
   well as standing and PRN oxycodone/APAP at OSH, but MS was reported to
   be clearer than present. Concern for infection (SBP?) vs enceph.
   - CT Head negative for bleed (in setting of supratherapuetic INR)
   - Continue to Hold centrally acting medications.
   - Empiric lactulose to see if this improves mental status - per reports
   pt w/ mild improvement w/ lactulose but self DC'd NGT this pm, will
   change lactulose to PR
   - Empiric coverage for SBP as above
   - F/u blood/urine cultures
   - CXR w/o infection
   - CIS
   .
   # Ascites - Appears [**12-29**] cirrhosis, but Concern for GI malignancy given
   gastic thickening on CT at OSH, although was non-contrast study. U/S
   consistent with cirrhosis on prelim read. Concern for SBP however
   unable to perform paracentesis previously so started on empiric
   ceftriaxone.
   - Consider contrast CT with prophylactic regimen given unclear history
   of radiocontrast allergy.
   - Consider repeat diagnostic/therapuetic paracentesis
   - Continue ceftriaxone for SBP
   .
   # Coronary artery disease - Had chest pain at OSH, but was ruled-out
   for MI.
   - Continue aspirin, statin, BB
   .
   # Leukocytosis with bandemia - Unclear etiology. No evidence of SBP on
   OSH paracentesis. ? UTI based on foul smelling urine at OSH.
   - Continue ciprofloxacin x 3 days.
   - CXR negative for infiltrate
   - On ceftriaxone for SBP emprically
   .
   # Left Adrenal nodule - Noted on OSH CT scan. Needs follow-up as
   outpatient.
   .
   # FEN: IVFs / replete lytes prn / NPO with AMS
   .
   # PPX: PPI, holding heparin SQ since on warfarin, lactulose , INR 6.9
   will give additional 5mg SC Vit K pending possible need for line
   placement, paracentesis, etc
   .
   # ACCESS: PIV
   .
   # CODE: At OSH pt was made DNR DNI: Attorney and Healthcare proxy
   [**Name (NI) **] [**Name (NI) 3581**]. Resident spoke directly with Ms. [**Name13 (STitle) 3581**] today, who
   expressed surprise that patient was DNR DNI at OSH. Ms. [**Name13 (STitle) 3581**] noted,
   however, that she was lucid enough at the OSH to have been able to
   communicate her true intentions and wishes. Given that OSH
   documentation indicates patient has been DNR DNI (recorded in the
   records presented on transfer and written on the pt's OSH wrist band),
   conclusion of conversation was that patient would remain DNR DNI on
   evening of admission, and that the HCP would need come-in to the
   hospital to re-assess. After discussion following resp distress this pm
   code status was reversed to Full Code
   .
   # DISPO: Pending above evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-12-26**] 04:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-12-27 10:06:00 Physician Attending Progress Note
Chief Complaint: Afib with RVR.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 year woman with PMH afib, CAD who presented to OSH with new onset
   ascites. Now found to have chirrosis of unclear etiology. Admitted to
   the ICU in afib with RVR, ARF, respiratory insuffciency, and now SBP.
   24 Hour Events:
 PARACENTESIS - At [**2132-12-26**] 02:00 PM
   Allergies:
   Iodine
   Swelling of fac
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-12-26**] 09:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-27**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 102 (85 - 130) bpm
   BP: 117/60(75) {103/40(56) - 139/4,557(81)} mmHg
   RR: 24 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    796 mL
                                                                    117 mL
   PO:
             TF:
   IVF:
                                                                    106 mL
                                                                     27 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  2,085 mL
                                                                    750 mL
   Urine:
                                                                  1,665 mL
                                                                    700 mL
   NG:
                                                                     70 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,289 mL
                                                                   -634 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, sspider angiomata
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed, not oriented
   Labs / Radiology
   8.6 g/dL
   338 K/uL
   105 mg/dL
   3.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   118 mg/dL
   105 mEq/L
   146 mEq/L
   25.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2132-12-26**]  06:22 AM
                             [**2132-12-26**]  03:21 PM
                             [**2132-12-27**]  03:15 AM
   WBC
   10.9
   10.8
   Hct
   27.4
   25.9
   Plt
   371
   338
   Cr
   3.8
   3.7
   3.5
   TropT
   0.06
   0.06
   Glucose
   150
   144
   105
   Other labs: PT / PTT / INR:17.7/26.4/1.6, CK / CKMB /
   Troponin-T:33//0.06, ALT / AST:[**7-10**], Alk Phos / T Bili:59/0.3,
   Differential-Neuts:90.2 %, Lymph:5.1 %, Mono:4.5 %, Eos:0.1 %,
   Albumin:3.5 g/dL, LDH:182 IU/L, Ca++:9.7 mg/dL, Mg++:2.5 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   76 y ear old woman with cryptogenic chirrosis now with SBP and ARF. Ddx
   of renal failure includes pre-renal, sepsis and HRS. Getting albumin
   for SBP will follow creatine. , will
   start midodrine and octreotide empirically. Getting ceftriaxone for
   SBP. Respiratory insuffciency was in the setting of afib with RVR, now
   improved. Still rhoncourous and wheezy with possible LLL infiltrate on
   CXR. will check sputum today. No need to broaded abx in setting of
   normal temp, wbc and improving respiratory status. Altered mental
   status likely toxic-metabolic on lactulose and will add rifaximin
   today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Start tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-12-26**] 04:54 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Addendum:
   Patient with aspiration event and respiratory distress after team
   rounds.  On exam abdomen noted to be distended, taught, and firm.  Lung
   exam with b/l crackles.
   Will do therapeurtic tap in order to decompress lungs and intrabdominal
   contents.

2132-12-28 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: New ascites, respiratory distress
   24 Hour Events:
   - Developed respiratory distress overnight with increased infiltrates
   on chest x-ray, initial ABG 7.23/57/79 -> placed on BiPAP with
   improvement in patient comfort, repeat ABG 7.30/47/111, 7.31/45/92, now
   again appears uncomfortable and desaturates immediately with removal of
   BiPAP mask
   - 2L paracentesis for respiratory distress after aspiration event - WBC
   190 in ascitic fluid
   - FeNa 0.5% (FeUrea 0.9% as recently on diuretics) per urine
   electrolytes
   - Given albumin 150 gm (2 gm/kg)
   - Started octreotide and midodrine out of concern for hepatorenal
   syndrome
   - Increased ceftriaxone to 2 gm daily for SBP
   - Gave D5W 1L for hypernatremia
   - Liver biopsy slides arrived from OSH
   Allergies:
   Iodine
   Swelling of fac
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-12-26**] 09:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-28**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 74 (74 - 115) bpm
   BP: 109/51(63) {92/34(51) - 135/64(81)} mmHg
   RR: 20 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  4,695 mL
                                                                    591 mL
   PO:
             TF:
   IVF:
                                                                  2,525 mL
                                                                    591 mL
   Blood products:
                                                                  1,850 mL
   Total out:
                                                                  3,790 mL
                                                                    235 mL
   Urine:
                                                                  1,340 mL
                                                                    235 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                    905 mL
                                                                    356 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 595 (595 - 689) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: 7.31/45/91.[**Numeric Identifier **]/25/-3
   Ve: 6.2 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Awake, minimally responsive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): not oriented,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   338 K/uL
   8.6 g/dL
   141 mg/dL
   3.1 mg/dL
   25 mEq/L
   3.0 mEq/L
   107 mg/dL
   99 mEq/L
   139 mEq/L
   25.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2132-12-26**]  06:22 AM
                             [**2132-12-26**]  03:21 PM
                             [**2132-12-27**]  03:15 AM
                             [**2132-12-27**]  02:34 PM
                             [**2132-12-27**]  10:19 PM
                             [**2132-12-27**]  11:31 PM
                             [**2132-12-28**]  04:40 AM
                             [**2132-12-28**]  06:22 AM
   WBC
   10.9
   10.8
   Hct
   27.4
   25.9
   Plt
   371
   338
   Cr
   3.8
   3.7
   3.5
   3.1
   TropT
   0.06
   0.06
   0.06
   TCO2
   25
   24
   24
   Glucose
   150
   144
   105
   141
   Other labs: PT / PTT / INR:17.7/26.4/1.6, CK / CKMB /
   Troponin-T:33/3/0.06, ALT / AST:[**4-5**], Alk Phos / T Bili:41/0.5,
   Differential-Neuts:90.2 %, Lymph:5.1 %, Mono:4.5 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:4.9 g/dL, LDH:182 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   76 year-old female with CAD, atrial fibrillation transferred for
   evaluation of new onset ascites of uncertain etiology, altered mental
   status and acute renal failure transferred to MICU for respiratory
   distress and atrial fibrillation with RVR.  The patient had a massive
   aspiration event yesterday and now has respiratory distress requiring
   BiPAP.  Gag is absent and it appears as if the patient may be
   continually aspirating.  She now appears uncomfortable on BiPAP and
   desaturates immediately with removal of mask.  Given her code status
   and overall poor prognosis, will need to discuss goals of care with the
   patient
s health care proxy today.
   # Aspiration event/respiratory distress: Massive aspiration event
   yesterday.  Patient DNI and treating supportively.
   - Need to discuss goals of care with the patient
s health care proxy
   - Continue BiPAP for now
   - 2L paracentesis yesterday
   - Consider antibiotics if concern for subsequent aspiration PNA
   # Cirrhosis/SBP: Ultrasound consistent with cirrhosis and evidence of
   chronic liver disease. Cirrhosis of unclear etiology
 negative
   Hepatitis B serology, iron saturation low.  Patient has been on
   Ceftriaxone since admission [**12-24**] and was diagnosed with SBP on
   paracentesis [**12-26**].  Received 1.5 gm/kg albumin day 1.  Evidence of
   encephalopathy
 now stooling well.  INR 5 on admission, improved with
   vitamin K
 platelets WNL.
   - Evaluation for cirrhosis
 Hepatitis C VL, [**Doctor First Name **], anti-mitochondrial
   Ab, anti-SM Ab, IgG, IgM
   - Continue ceftriaxone for SBP
 increase to 2 gm daily
   - Holding all PO medications given concern for aspiration, including
   lactulose and rifaxamin; stooling for now but can consider lactulose PR
   - Status post 2L paracentesis [**12-27**]
    - Appreciate liver recommendations
   # Acute renal failure: Pre-renal per electrolytes.  Given pre-renal
   picture, concern for hepatorenal syndrome.
   - Repeat urine electrolytes
   - Albumin 1gm/kg today
   - Continue octreotide
   - Holding all PO medications given concern for aspiration, including
   midodrine
   # Altered mental status: Most likely toxic/metabolic in the setting of
   liver and renal failure as well as infection. On admission the patient
   was receiving several centrally acing medications including
   metoclopramide, lorazepam, trazodone, as well as standing and
   narcotics. CT head negative for bleed.
   - Continue to hold sedating medications
   - Holding all PO medications given concern for aspiration, including
   lactulose and rifaxamin
   - Treatment for infection as above
   # Atrial fibrillation: History of RVR.  Initially on diltiazem gtt.
   Will not anticoagulate given comorbidities.
   - Metoprolol IV
   # Coronary artery disease: No active signs or symptoms of ischemia.
   Ruled out for MI at OSH.
   - Continue BB
   - Holding aspirin for now; consider PR
   - Holding statin in setting of liver disease
   # Leukocytosis with bandemia: Resolved.  SBP on paracentesis [**12-26**].
   - Continue ceftriaxone
   - Monitor
   # Incidental left adrenal nodule: Noted on OSH CT scan.  Needs
   follow-up as outpatient.
   ICU Care
   Nutrition: NPO given aspiration
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-12-27**] 03:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2132-12-28 08:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 76 year old woman with
   chrrosis of uncelar etiology. Liver following, was preparing for ICU
   discharge but suffered witnessed aspiration event yesterday.
   24 Hour Events:
   Resp. distress o/n - 7.23/57/79 on 3L.
   LVP - 2L off
   FENA yesterday 0.5
   Allergies:
   Iodine
   Swelling of fac
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-12-26**] 09:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-28**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 86 (74 - 115) bpm
   BP: 115/56(69) {92/34(51) - 135/64(80)} mmHg
   RR: 24 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  4,695 mL
                                                                    606 mL
   PO:
             TF:
   IVF:
                                                                  2,525 mL
                                                                    606 mL
   Blood products:
                                                                  1,850 mL
   Total out:
                                                                  3,790 mL
                                                                    735 mL
   Urine:
                                                                  1,340 mL
                                                                    235 mL
   NG:
                                                                    450 mL
                                                                    500 mL
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                    905 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 595 (595 - 689) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: 7.31/45/91.[**Numeric Identifier **]/25/-3
   Ve: 6.2 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: awake, min. responsive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): not oriented,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   338 K/uL
   141 mg/dL
   3.1 mg/dL
   25 mEq/L
   3.0 mEq/L
   107 mg/dL
   99 mEq/L
   139 mEq/L
   25.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2132-12-26**]  06:22 AM
                             [**2132-12-26**]  03:21 PM
                             [**2132-12-27**]  03:15 AM
                             [**2132-12-27**]  02:34 PM
                             [**2132-12-27**]  10:19 PM
                             [**2132-12-27**]  11:31 PM
                             [**2132-12-28**]  04:40 AM
                             [**2132-12-28**]  06:22 AM
   WBC
   10.9
   10.8
   Hct
   27.4
   25.9
   Plt
   371
   338
   Cr
   3.8
   3.7
   3.5
   3.1
   TropT
   0.06
   0.06
   0.06
   TCO2
   25
   24
   24
   Glucose
   150
   144
   105
   141
   Other labs: PT / PTT / INR:17.5/31.5/1.6, CK / CKMB /
   Troponin-T:33/3/0.06, ALT / AST:[**4-5**], Alk Phos / T Bili:41/0.5,
   Differential-Neuts:90.2 %, Lymph:5.1 %, Mono:4.5 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:4.9 g/dL, LDH:182 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   76 year old woman with chirrosis of unclear etiology, ARF, SBP and now
   respiratory insuffciency [**12-29**] aspiration. Worsening right sided
   infiltrate, sig. a-A gradient and coarse rhonchi throughout. Bipap
   dependent. Will add vancomycin  to ceftriaxone to cover respiratory
   infection. WBC on paracentesis appropriately trending down. Cr improved
   somewhat with albumin and repeat urine studies c/w pre-renal/HRS. We
   will check a bladder pressure today. Continue lactulose/rifaximin for
   altered mental status. Over, very concerned for prognosis particulary
   as it is unclear to what extent her liver disease is treatable. She is
   DNR/DNI and we will attempt to meet with HCP today to discuss goals of
   care.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-12-27**] 03:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will schedule family meeting today
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2132-12-29 07:31:00 Physician Resident Progress Note
Chief Complaint: Resp Distress
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2132-12-28**] 10:03 AM
   .
   Pt developed increased work of breathing last pm. Morphine gtt started
   for comfort
   Allergies:
   Iodine
   Swelling of fac
   Last dose of Antibiotics:
   Vancomycin - [**2132-12-28**] 09:34 AM
   Ceftriaxone - [**2132-12-28**] 08:00 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2132-12-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-29**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 89 (84 - 101) bpm
   BP: 97/42(55) {88/38(51) - 131/78(91)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 12 (12 - 12)mmHg
   Bladder pressure: 23 (23 - 23) mmHg
   Total In:
                                                                  1,990 mL
                                                                    144 mL
   PO:
   TF:
   IVF:
                                                                  1,470 mL
                                                                     84 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,440 mL
                                                                    890 mL
   Urine:
                                                                    840 mL
                                                                    290 mL
   NG:
                                                                    600 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                   -746 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: ///20/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   8.5 g/dL
   152 mg/dL
   2.9 mg/dL
   20 mEq/L
   3.3 mEq/L
   107 mg/dL
   103 mEq/L
   140 mEq/L
   26.7 %
   20.2 K/uL
        [image002.jpg]
                             [**2132-12-26**]  06:22 AM
                             [**2132-12-26**]  03:21 PM
                             [**2132-12-27**]  03:15 AM
                             [**2132-12-27**]  02:34 PM
                             [**2132-12-27**]  10:19 PM
                             [**2132-12-27**]  11:31 PM
                             [**2132-12-28**]  04:40 AM
                             [**2132-12-28**]  06:22 AM
                             [**2132-12-29**]  04:01 AM
   WBC
   10.9
   10.8
   20.2
   Hct
   27.4
   25.9
   26.7
   Plt
   371
   338
   295
   Cr
   3.8
   3.7
   3.5
   3.1
   2.9
   TropT
   0.06
   0.06
   0.06
   TCO2
   25
   24
   24
   Glucose
   150
   144
   105
   141
   152
   Other labs: PT / PTT / INR:17.2/31.4/1.6, CK / CKMB /
   Troponin-T:33/3/0.06, ALT / AST:[**6-4**], Alk Phos / T Bili:65/0.5,
   Differential-Neuts:90.2 %, Lymph:5.1 %, Mono:4.5 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:4.9 g/dL, LDH:182 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 PNEUMONIA, ASPIRATION
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
   .
   Assessment and Plan
   76 year-old female with history of coronary artery disease, atrial
   fibrillation transferred from OSH for evaluation of new onset ascites
   of unclear etiology, altered mental status and acute renal failure,
   transferred to MICU for respiratory distress and rapid atrial
   fibrillation.  The patient had a massive aspiration event yesterday and
   now has respiratory distress requiring BiPAP.  She now appears
   uncomfortable on BiPAP and desaturates immediately with removal of
   mask.  Given her code status and overall poor prognosis, will need to
   discuss goals of care with the patient
s health care proxy today.
   # Aspiration event/respiratory distress: Massive aspiration event
   yesterday.  Patient DNI and treating supportively.  A-a gradient <
   200.  Need to discuss goals of care with the patient
s health care
   proxy today.
   - Continue BiPAP
   - On ceftriaxone, will add vancomycin for potential aspiration
   pneumonia
   - Status post 2L paracentesis yesterday
   # Cirrhosis/SBP: Ultrasound consistent with cirrhosis and evidence of
   chronic liver disease. Cirrhosis of unclear etiology
 negative
   Hepatitis B and C serology, iron saturation low.  Patient has been on
   ceftriaxone since admission [**12-24**] and was diagnosed with SBP on
   paracentesis [**12-26**].  Received 1.5 gm/kg albumin day 1 and ordered for 1
   gm/kg today (day 3).  Evidence of encephalopathy
 stooling now on
   lactulose.  INR 5 on admission, improved with vitamin K
 platelets
   WNL, albumin improved with supplementation.
   - Evaluation for cirrhosis
 [**Doctor First Name **], anti-mitochondrial Ab, anti-SM Ab,
   IgG, IgM
   - Continue ceftriaxone for SBP
   - Continue lactulose and rifaxamin
   - Status post 2L paracentesis yesterday
   - Appreciate liver recommendations
   # Acute renal failure: Pre-renal per electrolytes.  Given pre-renal
   picture, concern for hepatorenal syndrome.
   - Repeat urine electrolytes
   - Albumin 1gm/kg today (third day)
   - Continue octreotide and midodrine
   # Acid-base: Mixed respiratory and anion-gap metabolic acidosis.
   Metabolic acidosis from renal failure, question lactic acidosis.
   - Treatment as above
   # Altered mental status: Most likely toxic/metabolic in the setting of
   liver and renal failure as well as infection. On admission the patient
   was receiving several centrally acing medications including
   metoclopramide, lorazepam, trazodone, as well as standing and
   narcotics. CT head negative for bleed.
   - Continue to hold sedating medications
   - Continue lactulose and rifaxamin
   - Treatment for infection as above
   # Atrial fibrillation: History of RVR.  Initially on diltiazem gtt.
   Will not anticoagulate given comorbidities.
   - Continue metoprolol for rate control
   # Coronary artery disease: No active signs or symptoms of ischemia.
   Ruled out for MI at OSH.
   - Continue aspirin, BB
   - Holding statin in setting of liver disease
   # Incidental left adrenal nodule: Noted on OSH CT scan.  Needs
   follow-up as outpatient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-12-27**] 03:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2132-12-29 10:47:00 Physician Attending Progress Note
Chief Complaint: Ascitis, cirrhosis of unknown eitiology
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2132-12-28**] 10:03 AM
   Aspirated over weekend. Was tapped, but bladder pressure still
   elevated. HCP preferred [**Name2 (NI) **] care only. No further taps. No bipap.
   Overnight, more uncomfortable, so started on morphine drip. SBP
   dropping. iv Vanc and Ceftriaxone fpr SBP and aspiration. HCP ok
   keeping her comfortable. RN reports all NGT meds coming back up into
   mouth with regurgitation.
   Allergies:
   Iodine
   Swelling of fac
   Last dose of Antibiotics:
   Vancomycin - [**2132-12-28**] 09:34 AM
   Ceftriaxone - [**2132-12-28**] 08:00 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2132-12-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-29**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.4
   HR: 90 (84 - 101) bpm
   BP: 78/45(53) {78/36(49) - 131/68(83)} mmHg
   RR: 13 (13 - 39) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
   CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  1,990 mL
                                                                    276 mL
   PO:
   TF:
   IVF:
                                                                  1,470 mL
                                                                    126 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,440 mL
                                                                  1,130 mL
   Urine:
                                                                    840 mL
                                                                    330 mL
   NG:
                                                                    600 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                   -854 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///20/
   Physical Examination
   General Appearance: unresponsive
   HEENT: JVD:, mild acc muscle use, L pupil pinpoint, R pupil fixed and
   dilated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Bowel sounds absent, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Labs / Radiology
   8.5 g/dL
   295 K/uL
   152 mg/dL
   2.9 mg/dL
   20 mEq/L
   3.3 mEq/L
   107 mg/dL
   103 mEq/L
   140 mEq/L
   26.7 %
   20.2 K/uL
        [image002.jpg]
                             [**2132-12-26**]  06:22 AM
                             [**2132-12-26**]  03:21 PM
                             [**2132-12-27**]  03:15 AM
                             [**2132-12-27**]  02:34 PM
                             [**2132-12-27**]  10:19 PM
                             [**2132-12-27**]  11:31 PM
                             [**2132-12-28**]  04:40 AM
                             [**2132-12-28**]  06:22 AM
                             [**2132-12-29**]  04:01 AM
   WBC
   10.9
   10.8
   20.2
   Hct
   27.4
   25.9
   26.7
   Plt
   371
   338
   295
   Cr
   3.8
   3.7
   3.5
   3.1
   2.9
   TropT
   0.06
   0.06
   0.06
   TCO2
   25
   24
   24
   Glucose
   150
   144
   105
   141
   152
   Other labs: PT / PTT / INR:17.2/31.4/1.6, CK / CKMB /
   Troponin-T:33/3/0.06, ALT / AST:[**6-4**], Alk Phos / T Bili:65/0.5,
   Differential-Neuts:90.2 %, Lymph:5.1 %, Mono:4.5 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:4.9 g/dL, LDH:182 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 [**Month/Day (4) **] CARE (CMO, [**Month/Day (4) **] MEASURES)
 PNEUMONIA, ASPIRATION
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
   76 year old woman with ascitis and chirrosis of unclear etiology, ARF,
   SBP and now respiratory insuffciency [**12-29**] aspiration. Worsening resp and
   abdominal distress overnight. Not tolerating NG meds either. HCP has
   clarified that patient would want to be kept comfortable at this point
   inadditiojn to DNR/DNI. Started morphine drip overnight. Agonal
   breathing. Will stop all invasive measures, blood draws, unnecessary
   meds including abx and goal for [**Month/Day (2) **] care. Call NEOB.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-12-27**] 03:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: [**Year (4 digits) 308**] measures only
   Disposition :ICU
   Total time spent:
   Pt seen and examined and agree with current assessment and plan.